US06756395B2
To a suspension of powdered sodium hydroxide (5.76 g, 144.0 mmol) in anhydrous dimethylsulfoxide (14 mL) was added a mixture of 4-methyl-2-nitro-anisole (2.0 mL, 14.4 mmole) and phenylthioacetonitrile (1.88 mL, 14.4 mmole) in anhydrous dimethylsulfoxide (14 mL). The reaction mixture was kept under 30° C. After stirring for one hour at room temperature, the reaction mixture was poured into ice water (400 mL) and 6N hydrochloric acid (40 mL). The mixture was extracted with dichloromethane. The organic layer was washed with water, dried (anhydrous magnesium sulfate), filtered and concentrated under reduced pressure. The resulting solid was washed with a small amount of hexanes and a small amount of ethyl acetate to give (5-methoxy-2-methyl-4-nitro-phenyl)-acetonitrile as a solid (2.40 g, 81%). 1H NMR (CDCl3) δ: 2.32 (s, 3H), 3.73 (s, 2H), 3.99 (s, 3H), 7.15 (s, 1H), 7.73 (s, 1H).

reactant | sodium hydroxide | 144.0 mmol, 5.76 g | [OH-].[Na+]
reactant | 4-methyl-2-nitro-anisole | 14.4 mmole, 2.0 mL | CC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C8H9NO3
reactant | phenylthioacetonitrile | 14.4 mmole, 1.88 mL | C1(=CC=CC=C1)SCC#N | C8H7NS
reactant | hydrochloric acid | 6N, 40 mL | Cl | ClH
solvent | dimethylsulfoxide | 14 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 14 mL | CS(=O)C | C2H6OS
product | (5-methoxy-2-methyl-4-nitro-phenyl)-acetonitrile | 2.40 g, 81% | COC=1C(=CC(=C(C1)CC#N)C)[N+](=O)[O-] | C10H10N2O3
